data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
851,921,[CH3:9][O:10][C:11](=[O:12])[C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N+:20]([CH3:21])=[CH:22][C:23]#[N:24].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[CH:22]([C:23]#[N:24])[N:20]([CH3:21])[C:13]3([C:11]([O:10][CH3:9])=[O:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,17.263998025389938,-45.963999771728496
1970,2185,[CH3:19][O:20][C:21](=[O:22])[C:23](=[NH+:24][C-:25]([CH3:26])[CH3:27])[C:28](=[O:29])[O:30][CH3:31].[N:1]#[C:2][C:3]([C:4]#[N:5])=[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[C:25]([CH3:26])([CH3:27])[NH:24][C:23]1([C:21]([O:20][CH3:19])=[O:22])[C:28](=[O:29])[O:30][CH3:31],water,298.15,40.92696948173469,23.975673509204093
2617,2900,[CH3:19][NH:20][C:21](=[O:22])[C:23](=[NH+:24][C-:25]([CH3:26])[C:27](=[O:28])[O:29][CH3:30])[C:31](=[O:32])[NH:33][CH3:34].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([CH3:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([CH3:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([C:31](=[O:32])[NH:33][CH3:34])[NH:24][C:25]2([CH3:26])[C:27](=[O:28])[O:29][CH3:30],water,298.15,19.175719171798715,-32.92292889240463
4284,4901,[CH3:10][C:11](=[O:12])[CH:13]=[O+:14][C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:15]([C:16]#[N:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[O:14][CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,7.682320364525872,-37.33534149625216
2423,2691,[CH3:18][NH:19][C:20](=[O:21])[C:22](=[NH+:23][C-:24]([C:25]([CH3:26])=[O:27])[C:28]([CH3:29])=[O:30])[C:31](=[O:32])[O:33][CH3:34].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:24]([C:25]([CH3:26])=[O:27])([C:28]([CH3:29])=[O:30])[NH:23][C:22]3([C:20]([NH:19][CH3:18])=[O:21])[C:31](=[O:32])[O:33][CH3:34],water,298.15,17.862927473196972,-32.76396148212006
4435,5067,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([C:17]([CH3:18])=[O:19])([C:20](=[O:21])[O:22][CH3:23])[N:15]=[C:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,17.506429000733448,-24.930342651273843
2783,3093,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([C:13]([CH3:14])=[O:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][NH:25][C:26](=[O:27])[CH:28]=[O+:29][C-:30]([C:31](=[O:32])[NH:33][CH3:34])[C:35](=[O:36])[O:37][CH3:38]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]([CH3:14])=[O:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:30]([C:31](=[O:32])[NH:33][CH3:34])([C:35](=[O:36])[O:37][CH3:38])[O:29][CH:28]2[C:26]([NH:25][CH3:24])=[O:27],water,298.15,5.41167302242453,-58.97456415942402
1074,1171,[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2.[CH2-:15][NH+:16]=[CH:17][C:18](=[O:19])[O:20][CH3:21]>>[Br:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[CH2:15][NH:16][CH:17]2[C:18](=[O:19])[O:20][CH3:21],water,298.15,21.002722501817345,-20.20021574530843
4382,5003,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[O:14][CH3:15])=[N+:16]([CH3:17])[N-:18][C:19](=[O:20])[O:21][CH3:22]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:18]([C:19](=[O:20])[O:21][CH3:22])[N:16]([CH3:17])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12](=[O:13])[O:14][CH3:15],water,298.15,24.950284506264747,-13.810106539149585
2666,2959,[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([C:10](=[O:11])[O:12][CH3:13])([C:14](=[O:15])[O:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][O:23][C:24](=[O:25])[C:26]([C:27]#[N:28])=[O+:29][N-:30][c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([C:10](=[O:11])[O:12][CH3:13])([C:14](=[O:15])[O:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:26]([C:24]([O:23][CH3:22])=[O:25])([C:27]#[N:28])[O:29][N:30]2[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,6.985133323993777,-46.40701666756244
